* D-Jetronic Manifold Pressure Sensor Model
* Version 1.1, March 2022
* andy@britishideas.com

.subckt mps pri1 pri2 sec1 sec2 vacpin gndpin

* Primary coil inductance look up table by vacuum, in Henry
.func LpriTable(vac) { vac == 0 ? 375m : vac <= 1 ? 375m : vac <= 2 ? 358m : vac <= 3 ? 350m
+ : vac <= 4 ? 342m : vac <= 5 ? 335m : vac <= 6 ? 327m : vac <= 7 ? 320m : vac <= 8 ? 313m
+ : vac <= 9 ? 306m : vac <= 10 ? 300m : vac <= 11 ? 292m : vac <= 12 ? 286m
+ : vac <= 13 ? 279m : vac <= 14 ? 271m : vac <= 15 ? 265m : 265m }

* Secondary coil inductance look up table by vacuum, in Henry
.func LsecTable(vac) { vac == 0 ? 731m : vac <= 1 ? 731m : vac <= 2 ? 703m : vac <= 3 ? 689m
+ : vac <= 4 ? 678m : vac <= 5 ? 665m : vac <= 6 ? 654m : vac <= 7 ? 641m : vac <= 8 ? 629m
+ : vac <= 9 ? 618m : vac <= 10 ? 607m : vac <= 11 ? 596m : vac <= 12 ? 584m
+ : vac <= 13 ? 572m : vac <= 14 ? 560m : vac <= 15 ? 550m : 550m }

* Coupling factor look up table by vacuum
.func kTable(vac) { vac == 0 ? 0.940646225 : vac <= 1 ? 0.940646225 : vac <= 2 ? 0.937901171 : vac <= 3 ? 0.93644171
+ : vac <= 4 ? 0.935217231 : vac <= 5 ? 0.933744986 : vac <= 6 ? 0.932426383 : vac <= 7 ? 0.930837611 : vac <= 8 ? 0.929297049
+ : vac <= 9 ? 0.927815404 : vac <= 10 ? 0.926277558 : vac <= 11 ? 0.924680246 : vac <= 12 ? 0.922882619
+ : vac <= 13 ? 0.921005835 : vac <= 14 ? 0.918947379 : vac <= 15 ? 0.917110086 : 0.917110086 }

* Resistances of primary and secondary coils, in Ohms
.param Rpri=92.5
.param Rsec=348
* Output parallel resistance, determined by measurement
.param Rout=11384

Ra pri1 B {Rpri}
La B C {LpriTable(V(vacpin,gnd))*(1 - kTable(V(vacpin,gnd)))}
Lb C pri2 {kTable(V(vacpin,gnd))*LpriTable(V(vacpin,gnd))}
Lc C D {LpriTable(V(vacpin,gnd))*(1 - kTable(V(vacpin,gnd)))}
Rd D E {Rsec*LpriTable(V(vacpin,gnd))/LsecTable(V(vacpin,gnd))}
Le E pri2 1T
Lf sec1 sec2 1T
K1 Le Lf 1
Rm sec1 sec2 {Rout}

.ends
