* D-Jetronic Throttle Position Switch
* Version 2.0, September 2022
* (C) andy@britishideas.com 2022

.subckt tps position enrich_en idle full_throttle enrich_a enrich_b vcc gnd

.model DIODE D 
.model BCY58 npn 
.model BSX95 npn 
.model AUY21 pnp 

XS2 0 Net-_R11-Pad2_ POSITION 0 vcs close_v=0.083
R2 VCC Net-_R11-Pad2_ 1k
Q2 Net-_Q1-Pad3_ Net-_Q2-Pad2_ 0 BCY58
R11 Net-_Q2-Pad2_ Net-_R11-Pad2_ 10k
R10 Net-_Q1-Pad2_ Net-_R1-Pad1_ 10k
Q1 PA_1 Net-_Q1-Pad2_ Net-_Q1-Pad3_ BCY58
R1 Net-_R1-Pad1_ 0 1k
XS1 VCC Net-_R1-Pad1_ POSITION 0 vcs close_v=0.068
R9 VCC Net-_R18-Pad2_ 1k
XS9 0 Net-_R18-Pad2_ POSITION 0 vcs close_v=0.0145
Q9 IDLE Net-_Q9-Pad2_ 0 BCY58
R18 Net-_Q9-Pad2_ Net-_R18-Pad2_ 10k
* R23 VCC IDLE 1k
R40 Net-_R40-Pad1_ 0 1k
XS18 VCC Net-_R40-Pad1_ POSITION 0 vcs close_v=0.8058
Q18 FULL_THROTTLE Net-_Q18-Pad2_ 0 BCY58
R45 Net-_Q18-Pad2_ Net-_R40-Pad1_ 10k
* R46 VCC FULL_THROTTLE 1k
R19 VCC PA_1 1k
XS11 0 Net-_R25-Pad2_ POSITION 0 vcs close_v=0.1428
R25 VCC Net-_R25-Pad2_ 1k
Q11 Net-_Q10-Pad3_ Net-_Q11-Pad2_ 0 BCY58
R33 Net-_Q11-Pad2_ Net-_R25-Pad2_ 10k
R32 Net-_Q10-Pad2_ Net-_R24-Pad1_ 10k
Q10 PA_2 Net-_Q10-Pad2_ Net-_Q10-Pad3_ BCY58
R24 Net-_R24-Pad1_ 0 1k
XS10 VCC Net-_R24-Pad1_ POSITION 0 vcs close_v=0.1278
R41 VCC PA_2 1k
XS20 0 Net-_R48-Pad2_ POSITION 0 vcs close_v=0.2026
R48 VCC Net-_R48-Pad2_ 1k
Q20 Net-_Q19-Pad3_ Net-_Q20-Pad2_ 0 BCY58
R56 Net-_Q20-Pad2_ Net-_R48-Pad2_ 10k
R55 Net-_Q19-Pad2_ Net-_R47-Pad1_ 10k
Q19 PA_3 Net-_Q19-Pad2_ Net-_Q19-Pad3_ BCY58
R47 Net-_R47-Pad1_ 0 1k
XS19 VCC Net-_R47-Pad1_ POSITION 0 vcs close_v=0.1877
R63 VCC PA_3 1k
XS28 0 Net-_R68-Pad2_ POSITION 0 vcs close_v=0.2624
R68 VCC Net-_R68-Pad2_ 1k
Q28 Net-_Q27-Pad3_ Net-_Q28-Pad2_ 0 BCY58
R76 Net-_Q28-Pad2_ Net-_R68-Pad2_ 10k
R75 Net-_Q27-Pad2_ Net-_R67-Pad1_ 10k
Q27 PA_4 Net-_Q27-Pad2_ Net-_Q27-Pad3_ BCY58
R67 Net-_R67-Pad1_ 0 1k
XS27 VCC Net-_R67-Pad1_ POSITION 0 vcs close_v=0.2475
R83 VCC PA_4 1k
XS36 0 Net-_R88-Pad2_ POSITION 0 vcs close_v=0.3223
R88 VCC Net-_R88-Pad2_ 1k
Q36 Net-_Q35-Pad3_ Net-_Q36-Pad2_ 0 BCY58
R96 Net-_Q36-Pad2_ Net-_R88-Pad2_ 10k
R95 Net-_Q35-Pad2_ Net-_R87-Pad1_ 10k
Q35 PA_5 Net-_Q35-Pad2_ Net-_Q35-Pad3_ BCY58
R87 Net-_R87-Pad1_ 0 1k
XS35 VCC Net-_R87-Pad1_ POSITION 0 vcs close_v=0.3073
R103 VCC PA_5 1k
XS4 0 Net-_R13-Pad2_ POSITION 0 vcs close_v=0.3821
R4 VCC Net-_R13-Pad2_ 1k
Q4 Net-_Q3-Pad3_ Net-_Q4-Pad2_ 0 BCY58
R13 Net-_Q4-Pad2_ Net-_R13-Pad2_ 10k
R12 Net-_Q3-Pad2_ Net-_R12-Pad2_ 10k
Q3 PA_6 Net-_Q3-Pad2_ Net-_Q3-Pad3_ BCY58
R3 Net-_R12-Pad2_ 0 1k
XS3 VCC Net-_R12-Pad2_ POSITION 0 vcs close_v=0.3671
R20 VCC PA_6 1k
XS13 0 Net-_R27-Pad2_ POSITION 0 vcs close_v=0.4419
R27 VCC Net-_R27-Pad2_ 1k
Q13 Net-_Q12-Pad3_ Net-_Q13-Pad2_ 0 BCY58
R35 Net-_Q13-Pad2_ Net-_R27-Pad2_ 10k
R34 Net-_Q12-Pad2_ Net-_R26-Pad1_ 10k
Q12 PA_7 Net-_Q12-Pad2_ Net-_Q12-Pad3_ BCY58
R26 Net-_R26-Pad1_ 0 1k
XS12 VCC Net-_R26-Pad1_ POSITION 0 vcs close_v=0.4270
R42 VCC PA_7 1k
XS22 0 Net-_R50-Pad2_ POSITION 0 vcs close_v=0.5017
R50 VCC Net-_R50-Pad2_ 1k
Q22 Net-_Q21-Pad3_ Net-_Q22-Pad2_ 0 BCY58
R58 Net-_Q22-Pad2_ Net-_R50-Pad2_ 10k
R57 Net-_Q21-Pad2_ Net-_R49-Pad1_ 10k
Q21 PA_8 Net-_Q21-Pad2_ Net-_Q21-Pad3_ BCY58
R49 Net-_R49-Pad1_ 0 1k
XS21 VCC Net-_R49-Pad1_ POSITION 0 vcs close_v=0.4868
R64 VCC PA_8 1k
XS30 0 Net-_R70-Pad2_ POSITION 0 vcs close_v=0.5616
R70 VCC Net-_R70-Pad2_ 1k
Q30 Net-_Q29-Pad3_ Net-_Q30-Pad2_ 0 BCY58
R78 Net-_Q30-Pad2_ Net-_R70-Pad2_ 10k
R77 Net-_Q29-Pad2_ Net-_R69-Pad1_ 10k
Q29 PA_9 Net-_Q29-Pad2_ Net-_Q29-Pad3_ BCY58
R69 Net-_R69-Pad1_ 0 1k
XS29 VCC Net-_R69-Pad1_ POSITION 0 vcs close_v=0.5466
R84 VCC PA_9 1k
XS38 0 Net-_R90-Pad2_ POSITION 0 vcs close_v=1.00
R90 VCC Net-_R90-Pad2_ 1k
Q38 Net-_Q37-Pad3_ Net-_Q38-Pad2_ 0 BCY58
R98 Net-_Q38-Pad2_ Net-_R90-Pad2_ 10k
R97 Net-_Q37-Pad2_ Net-_R89-Pad1_ 10k
Q37 PA_10 Net-_Q37-Pad2_ Net-_Q37-Pad3_ BCY58
R89 Net-_R89-Pad1_ 0 1k
XS37 VCC Net-_R89-Pad1_ POSITION 0 vcs close_v=0.6064
R104 VCC PA_10 1k
Q54 Net-_Q54-Pad1_ PA_1 Net-_Q54-Pad3_ BCY58
Q55 Net-_Q54-Pad3_ PA_2 Net-_Q55-Pad3_ BCY58
Q56 Net-_Q55-Pad3_ PA_3 Net-_Q56-Pad3_ BCY58
Q57 Net-_Q56-Pad3_ PA_4 Net-_Q57-Pad3_ BCY58
Q58 Net-_Q57-Pad3_ PA_5 Net-_Q58-Pad3_ BCY58
Q59 Net-_Q58-Pad3_ PA_6 Net-_Q59-Pad3_ BCY58
Q60 Net-_Q59-Pad3_ PA_7 Net-_Q60-Pad3_ BCY58
Q61 Net-_Q60-Pad3_ PA_8 Net-_Q61-Pad3_ BCY58
Q62 Net-_Q61-Pad3_ PA_9 Net-_Q62-Pad3_ BCY58
Q63 Net-_Q62-Pad3_ PA_10 0 BCY58
XS6 0 Net-_R15-Pad2_ POSITION 0 vcs close_v=0.0441
R6 VCC Net-_R15-Pad2_ 1k
Q6 Net-_Q5-Pad3_ Net-_Q6-Pad2_ 0 BCY58
R15 Net-_Q6-Pad2_ Net-_R15-Pad2_ 10k
R14 Net-_Q5-Pad2_ Net-_R14-Pad2_ 10k
Q5 PB_1 Net-_Q5-Pad2_ Net-_Q5-Pad3_ BCY58
R5 Net-_R14-Pad2_ 0 1k
XS5 VCC Net-_R14-Pad2_ POSITION 0 vcs close_v=0.0291
R21 VCC PB_1 1k
XS15 0 Net-_R29-Pad2_ POSITION 0 vcs close_v=0.1039
R29 VCC Net-_R29-Pad2_ 1k
Q15 Net-_Q14-Pad3_ Net-_Q15-Pad2_ 0 BCY58
R37 Net-_Q15-Pad2_ Net-_R29-Pad2_ 10k
R36 Net-_Q14-Pad2_ Net-_R28-Pad1_ 10k
Q14 PB_2 Net-_Q14-Pad2_ Net-_Q14-Pad3_ BCY58
R28 Net-_R28-Pad1_ 0 1k
XS14 VCC Net-_R28-Pad1_ POSITION 0 vcs close_v=0.0889
R43 VCC PB_2 1k
XS24 0 Net-_R52-Pad2_ POSITION 0 vcs close_v=0.1637
R52 VCC Net-_R52-Pad2_ 1k
Q24 Net-_Q23-Pad3_ Net-_Q24-Pad2_ 0 BCY58
R60 Net-_Q24-Pad2_ Net-_R52-Pad2_ 10k
R59 Net-_Q23-Pad2_ Net-_R51-Pad1_ 10k
Q23 PB_3 Net-_Q23-Pad2_ Net-_Q23-Pad3_ BCY58
R51 Net-_R51-Pad1_ 0 1k
XS23 VCC Net-_R51-Pad1_ POSITION 0 vcs close_v=0.1488
R65 VCC PB_3 1k
XS32 0 Net-_R72-Pad2_ POSITION 0 vcs close_v=0.2235
R72 VCC Net-_R72-Pad2_ 1k
Q32 Net-_Q31-Pad3_ Net-_Q32-Pad2_ 0 BCY58
R80 Net-_Q32-Pad2_ Net-_R72-Pad2_ 10k
R79 Net-_Q31-Pad2_ Net-_R71-Pad1_ 10k
Q31 PB_4 Net-_Q31-Pad2_ Net-_Q31-Pad3_ BCY58
R71 Net-_R71-Pad1_ 0 1k
XS31 VCC Net-_R71-Pad1_ POSITION 0 vcs close_v=0.2086
R85 VCC PB_4 1k
XS40 0 Net-_R100-Pad2_ POSITION 0 vcs close_v=0.2834
R92 VCC Net-_R100-Pad2_ 1k
Q40 Net-_Q39-Pad3_ Net-_Q40-Pad2_ 0 BCY58
R100 Net-_Q40-Pad2_ Net-_R100-Pad2_ 10k
R99 Net-_Q39-Pad2_ Net-_R91-Pad1_ 10k
Q39 PB_5 Net-_Q39-Pad2_ Net-_Q39-Pad3_ BCY58
R91 Net-_R91-Pad1_ 0 1k
XS39 VCC Net-_R91-Pad1_ POSITION 0 vcs close_v=0.2684
R105 VCC PB_5 1k
XS8 0 Net-_R17-Pad2_ POSITION 0 vcs close_v=0.3432
R8 VCC Net-_R17-Pad2_ 1k
Q8 Net-_Q7-Pad3_ Net-_Q8-Pad2_ 0 BCY58
R17 Net-_Q8-Pad2_ Net-_R17-Pad2_ 10k
R16 Net-_Q7-Pad2_ Net-_R16-Pad2_ 10k
Q7 PB_6 Net-_Q7-Pad2_ Net-_Q7-Pad3_ BCY58
R7 Net-_R16-Pad2_ 0 1k
XS7 VCC Net-_R16-Pad2_ POSITION 0 vcs close_v=0.3282
R22 VCC PB_6 1k
R31 VCC Net-_R31-Pad2_ 1k
Q17 Net-_Q16-Pad3_ Net-_Q17-Pad2_ 0 BCY58
R39 Net-_Q17-Pad2_ Net-_R31-Pad2_ 10k
R38 Net-_Q16-Pad2_ Net-_R30-Pad1_ 10k
Q16 PB_7 Net-_Q16-Pad2_ Net-_Q16-Pad3_ BCY58
R30 Net-_R30-Pad1_ 0 1k
XS16 VCC Net-_R30-Pad1_ POSITION 0 vcs close_v=0.3881
R44 VCC PB_7 1k
R54 VCC Net-_R54-Pad2_ 1k
Q26 Net-_Q25-Pad3_ Net-_Q26-Pad2_ 0 BCY58
R62 Net-_Q26-Pad2_ Net-_R54-Pad2_ 10k
R61 Net-_Q25-Pad2_ Net-_R53-Pad1_ 10k
Q25 PB_8 Net-_Q25-Pad2_ Net-_Q25-Pad3_ BCY58
R53 Net-_R53-Pad1_ 0 1k
R66 VCC PB_8 1k
XS34 0 Net-_R74-Pad2_ POSITION 0 vcs close_v=0.5227
R74 VCC Net-_R74-Pad2_ 1k
Q34 Net-_Q33-Pad3_ Net-_Q34-Pad2_ 0 BCY58
R82 Net-_Q34-Pad2_ Net-_R74-Pad2_ 10k
R81 Net-_Q33-Pad2_ Net-_R73-Pad1_ 10k
Q33 PB_9 Net-_Q33-Pad2_ Net-_Q33-Pad3_ BCY58
R73 Net-_R73-Pad1_ 0 1k
XS33 VCC Net-_R73-Pad1_ POSITION 0 vcs close_v=0.5077
R86 VCC PB_9 1k
XS42 0 Net-_R102-Pad2_ POSITION 0 vcs close_v=0.5825
R94 VCC Net-_R102-Pad2_ 1k
Q42 Net-_Q41-Pad3_ Net-_Q42-Pad2_ 0 BCY58
R102 Net-_Q42-Pad2_ Net-_R102-Pad2_ 10k
R101 Net-_Q41-Pad2_ Net-_R101-Pad2_ 10k
Q41 PB_10 Net-_Q41-Pad2_ Net-_Q41-Pad3_ BCY58
R93 Net-_R101-Pad2_ 0 1k
XS41 VCC Net-_R101-Pad2_ POSITION 0 vcs close_v=0.5675
R106 VCC PB_10 1k
XS26 0 Net-_R54-Pad2_ POSITION 0 vcs close_v=0.4628
XS17 0 Net-_R31-Pad2_ POSITION 0 vcs close_v=0.4030
XS25 VCC Net-_R53-Pad1_ POSITION 0 vcs close_v=0.4479
R108 VCC Net-_Q44-Pad1_ 1k
Q53 Net-_Q52-Pad3_ PB_10 0 BCY58
Q52 Net-_Q51-Pad3_ PB_9 Net-_Q52-Pad3_ BCY58
Q51 Net-_Q50-Pad3_ PB_8 Net-_Q51-Pad3_ BCY58
Q50 Net-_Q49-Pad3_ PB_7 Net-_Q50-Pad3_ BCY58
Q49 Net-_Q48-Pad3_ PB_6 Net-_Q49-Pad3_ BCY58
Q48 Net-_Q47-Pad3_ PB_5 Net-_Q48-Pad3_ BCY58
Q47 Net-_Q46-Pad3_ PB_4 Net-_Q47-Pad3_ BCY58
Q46 Net-_Q45-Pad3_ PB_3 Net-_Q46-Pad3_ BCY58
Q45 Net-_Q44-Pad3_ PB_2 Net-_Q45-Pad3_ BCY58
Q44 Net-_Q44-Pad1_ PB_1 Net-_Q44-Pad3_ BCY58
Q67 VCC Net-_Q67-Pad2_ Net-_Q65-Pad3_ BCY58
Q65 VCC N_ENRICH_EN Net-_Q65-Pad3_ BCY58
Q43 N_ENRICH_EN ENRICH_EN 0 BCY58
R107 VCC N_ENRICH_EN 1k
R109 VCC Net-_Q54-Pad1_ 1k
R113 Net-_Q65-Pad3_ 0 1k
R117 VCC Net-_Q69-Pad1_ 1k
Q69 Net-_Q69-Pad1_ Net-_Q69-Pad2_ 0 BCY58
* R121 VCC ENRICH_A 1k
Q71 ENRICH_A Net-_Q71-Pad2_ 0 BCY58
R115 Net-_Q69-Pad2_ Net-_Q65-Pad3_ 1k
R119 Net-_Q71-Pad2_ Net-_Q69-Pad1_ 1k
R111 Net-_Q67-Pad2_ Net-_Q54-Pad1_ 1k
Q66 VCC Net-_Q66-Pad2_ Net-_Q64-Pad3_ BCY58
Q64 VCC N_ENRICH_EN Net-_Q64-Pad3_ BCY58
R112 Net-_Q64-Pad3_ 0 1k
R116 VCC Net-_Q68-Pad1_ 1k
Q68 Net-_Q68-Pad1_ Net-_Q68-Pad2_ 0 BCY58
* R120 VCC ENRICH_B 1k
Q70 ENRICH_B Net-_Q70-Pad2_ 0 BCY58
R114 Net-_Q68-Pad2_ Net-_Q64-Pad3_ 1k
R118 Net-_Q70-Pad2_ Net-_Q68-Pad1_ 1k
R110 Net-_Q66-Pad2_ Net-_Q44-Pad1_ 1k

.ends

.subckt vcs in_pin out_pin vcc_pin gnd_pin close_v=5.0
.model vcs_switch sw vt={close_v} vh=0.01 ron=1 roff=1Meg
S1 in_pin out_pin vcc_pin gnd_pin vcs_switch
.ends
